US06878722B2
step 3.8a) To a solution of cyclopropylsulfonylamine tert-butyl carbamate (1.0 g, 4.52 mmol) dissolved in THF (10 mL) cooled to −78° C., was added n-BuLi (6.4 mL, 10.2 mmol, 1.6 M in hexane) and the reaction mixture was stirred for 1 h. To this solution was added a THF (10 mL) solution of NCS (0.86 g, 6.34 mmol). After stirred for 5 min, the bath was changed to ice bath and the mixture was stirred for 3 h at the temperature. The reaction mixture was diluted with ice water, the pH was adjusted to <4. The aqueous mixtire was extracted with EtOAc. The combined extracts were dried (MgSO4), concentrated and purified by flash chromatography over SiO2 using EtOAc/hexanes (0% to 60%) as the eluent to afford 0.98 g (67%) of 1-chloro-cyclopropanesulfonamide-tert-butylcarbamate as a white solid: 1H NMR (CDCl3) δ ppm 1.51 (m, II H), 2.01 (m, 2H), 7.60 (s, 1H).

reactant | cyclopropylsulfonylamine tert-butyl carbamate | 4.52 mmol, 1.0 g | C(C)(C)(C)NC(O)=O.C1(CC1)S(=O)(=O)N
reactant | n-BuLi | 10.2 mmol, 1.6 M, 6.4 mL | [Li]CCCC
reactant | NCS | 6.34 mmol, 0.86 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-chloro-cyclopropanesulfonamide tert-butylcarbamate | 0.98 g, 67% | ClC1(CC1)S(=O)(=O)N.C(C)(C)(C)NC([O-])=O | InChI=1S/C5H11NO2.C3H6ClNO2S/c1-5(2,3)6-4(7)8;4-3(1-2-3)8(5,6)7/h6H,1-3H3,(H,7,8);1-2H2,(H2,5,6,7)/p-1
